US04145362
2,3-dichloroaniline hydrochloride is prepared by 162 g of dichloroaniline being added slowly and with vigorous agitation to a mixture of 280 ml of acetic acid and 280 ml of concentrated (9 N) HCl, diazotization being effected by the addition of 75 g of NaNO2 dissolved in 150 ml of water, the temperature being maintained between 0° and 5° C. A mixture of 5 g of CaO and 60 ml of methacrolein (dissolved in 120 ml of acetone) and a solution of 6 g of CuCl dissolved in 60 ml of HCl are introduced simultaneously into the filtered diazonium salt solution over a period of 30 minutes. After the addition of the reagents the mixture is left to react at from 0° to 5° C. for 2 hours, then at from 10°-12° C. for 10 hours. The α-chloro-α-methyl-β-(2,3-dichlorophenyl)propionaldehyde is isolated similarly to the products in the previous examples. 206 g, corresponding to an 80% yield, of an oil distilling between 118° and 120° C. at a pressure of 0.01 mm Hg are obtained.

reactant | dichloroaniline | 162 g | ClN(C1=CC=CC=C1)Cl | C6H5Cl2N
reactant | α-chloro-α-methyl-β-(2,3-dichlorophenyl)propionaldehyde | ClC(C=O)(CC1=C(C(=CC=C1)Cl)Cl)C | C10H9Cl3O
solvent | acetic acid | 280 ml | C(C)(=O)O | C2H4O2
product | 2,3-dichloroaniline hydrochloride | 80% yield | Cl.ClC1=C(N)C=CC=C1Cl | InChI=1S/C6H5Cl2N.ClH/c7-4-2-1-3-5(9)6(4)8;/h1-3H,9H2;1H
